US07816353B2
2-Benzyloxy-N-(3-trifluoromethyl-phenyl)-acetamide:
To a 500 mL round-bottomed flask was added benzyloxyacetic acid (4.80 g, 28.9 mmol, 1.0 eq.), EDC (8.30 g, 43.3 mmol, 1.5 eq.), HOBt (5.85 g, 43.3 mmol, 1.5 eq.), and DMF (200 mL). N-methylmorpholine (6.5 mL, 57.7 mmol, 2.0 eq.) was added and the mixture was stirred at room temperature for 30 min. 3-Trifluoromethylaniline (6.12 mL, 49.1 mmol, 1.7 eq.) was added and the reaction mixture was stirred overnight at room temperature. The reaction mixture was diluted with EtOAc (500 mL) and then washed with H2O (1×100 mL), 10% aqueous LiCl (3×100 mL), H2O (1×100 mL), and brine (1×50 mL). The combined aqueous phases were extracted with EtOAc (3×75 mL). The organic phases were combined, dried over anhydrous sodium sulfate, filtered, and concentrated to give an oil which was used in the next step without further purification. LC/MSD (HP Series 1100 MSD) Expected MW: 309.10, Observed M+H, 310.1, Retention time: 1.67. 1H-NMR, DMSO-d6, Varian 400 MHz δ 10.15 (s, 1H), 8.13 (s, 1H), 7.86 (d, 1H), 7.54 (t, 1H), 7.39-6.72 (m, 5H) 5.55 (s, 1H), 4.62 (s, 2H), 4.12 (s, 2H) ppm.

reactant | benzyloxyacetic acid | 28.9 mmol, 4.80 g, 1.0 eq. | C(C1=CC=CC=C1)OCC(=O)O | C9H10O3
reactant | EDC | 43.3 mmol, 8.30 g, 1.5 eq.
reactant | HOBt | 43.3 mmol, 5.85 g, 1.5 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 57.7 mmol, 6.5 mL, 2.0 eq. | CN1CCOCC1 | C5H11NO
reactant | 3-Trifluoromethylaniline | 49.1 mmol, 6.12 mL, 1.7 eq. | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-Benzyloxy-N-(3-trifluoromethyl-phenyl)-acetamide | C(C1=CC=CC=C1)OCC(=O)NC1=CC(=CC=C1)C(F)(F)F | C16H14F3NO2
